US07326731B2
Add MeI (0.623 g, 4.4 mmol) to a solution of N-4-fluorobenzyl-N-methylthioacetamide (0.662 g, 3.4 mmol) in 10 mL of ether at rt. Stir the mixture for 3 h and evaporate the ether under vacuum. Add (6-aminoindan-1-yl)carbamic acid tert-butyl ester (0.7 g, 2.28 mmol) followed by 5 mL of pyridine. Stir the resulting mixture for 12 h. Evaporate pyridine and purify the residue by column chromatography (silica gel, 3% MeOH in CH2Cl2) to give 1.26 g of (6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)indan-1-yl)carbamic acid tert-butyl ester as a light yellow solid; MS 412 (MH+); 1H NMR (CD3OD) d 7.35-7.29 (2H, m), 7.18-7.10 (3H, m), 6.70 (1H, s), 6.65 (1H, d, J=7.6 Hz), 5.06 (1H, t, J=6.8 Hz), 4.69 (2H, s), 3.05 (3H, s), 2.97-2.91 (1H, m), 2.84-2.77 (1H, m), 2.55-2.48 (1H, m), 1.97 (3H, s), 1.52 (9H, s).

reactant | MeI | 4.4 mmol, 0.623 g | CI | CH3I
reactant | N-4-fluorobenzyl-N-methylthioacetamide | 3.4 mmol, 0.662 g | FC1=CC=C(CN(C(C)=S)C)C=C1 | C10H12FNS
reactant | (6-aminoindan-1-yl)carbamic acid tert-butyl ester | 2.28 mmol, 0.7 g | C(C)(C)(C)OC(NC1CCC2=CC=C(C=C12)N)=O | C14H20N2O2
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | ether | 10 mL | CCOCC | C4H10O
product | (6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)indan-1-yl)carbamic acid tert-butyl ester | 1.26 g | C(C)(C)(C)OC(NC1CCC2=CC=C(C=C12)N=C(C)NCCC1=CC=C(C=C1)F)=O | C24H30FN3O2
